US08981085B2
A solution of tert-butyl (3R)-1-(5-bromo-3-(tetrahydrofuran-3-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (57 mg, 0.11 mmol) in neat TFA (5 mL) was stirred at room temperature for 30 minutes and concentrated in vacuo. The oily residue was dissolved in a few drops of CH2Cl2 and treated with 2M HCl in Et2O (3 mL). The solid formed was filtered, washed with additional Et2O and purified by C-18 reverse phase column chromatography (Biotage C-18, 12M+) on Biotage SP4 unit eluting with 5%-60% CH3CN/water gradient. The product isolated was dissolved in few drops of 10% MeOH/CH2Cl2 and treated with 2M HCl in Et2O (4 mL). The precipitate formed was filtered, washed with additional Et2O (2×2 mL) followed by CH3CN (1 mL) and dried to provide N-(4-((R)-3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)tetrahydrofuran-3-carboxamide hydrochloride (20 mg, 37% yield) as a solid. 1H NMR (400 MHz, (CD3)2SO) δ 11.84 (s, 1H), 9.49 (s, 1H), 8.24 (br s, 4H), 7.57 (s, 1H), 3.84-3.71 (m, 4H), 3.44-3.36 (m, 3H), 3.28-3.21 (m, 2H), 3.11-3.06 (m, 1H), 2.17-2.08 (m, 3H), 1.87-1.80 (m, 1H), 1.76-1.65 (m, 1H), 1.53-1.43 (m, 1H); LCMS (APCI+) m/z 408, 410 (M+H)+, Retention time=1.99 minutes (Method 2).

reactant | tert-butyl (3R)-1-(5-bromo-3-(tetrahydrofuran-3-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.11 mmol, 57 mg | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2COCC2)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C22H30BrN5O4
reactant | HCl | 2M | Cl | ClH
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | Et2O | 4 mL | CCOCC | C4H10O
product | N-(4-((R)-3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)tetrahydrofuran-3-carboxamide hydrochloride | 20 mg, 37% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(=O)C2COCC2 | InChI=1S/C17H22BrN5O2.ClH/c18-12-6-20-16-14(15(12)23-4-1-2-11(19)8-23)13(7-21-16)22-17(24)10-3-5-25-9-10;/h6-7,10-11H,1-5,8-9,19H2,(H,20,21)(H,22,24);1H/t10?,11-;/m1./s1
